### PR TITLE
Sigma, Pi and Identity Types structure over cwf

### PR DESCRIPTION
**Pull request by tvignon**
This PR formalize : 

- Sigma Type over a category with family
- Pi Type over a category with family
- Identity Type over a category with family (still a work in progress)
- Family of Types over a category with family

This use a version of term with the internal typing directly taken into account.

### CODE REVIEW

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 1]
```diff
@@ -0,0 +1,653 @@
...
+Require Import TypeTheory.ALV1.CwF_def.
+
+
+
+Notation "'pr1121' x" := (pr1(pr1(pr2(pr1(x))))) (at level 30).
+Notation "'pr2121' x" := (pr2(pr1(pr2(pr1(x))))) (at level 30).
+
+Section Auxiliary.
+Definition id_left (E : category) := pr1121 E.
+Definition id_right (E : category) := pr2121 E.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:23]: Aren't these definitions there already? Maybe even under the exact same name?

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 2]
```diff
@@ -0,0 +1,653 @@
...
+ 
+Lemma hSetProofIrr {S : hSet} {A B : S} (a b : A = B) : a = b.
+Proof.
+  apply setproperty.
+Qed.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:28]: Is it possible to use an existing lemma instead of this one?

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 3]
```diff
@@ -0,0 +1,653 @@
...
+Local Definition Tm : functor _ _ := source pp.
+(* extension of context *)
+Local Definition ext (Γ : C) (A : Ty Γ : hSet) : C := pr11 pr22 CwF Γ A.
+Local Notation "Γ .: A" :=  (ext Γ A) (at level 24).
+
+Local Definition pi {Γ : C} (A : Ty Γ : hSet) : C⟦Γ.:A,Γ⟧ := pr21 pr22 CwF _ A.
+Definition CwF_Pullback {Γ} (A : Ty Γ : hSet) := pr22 pr22 CwF Γ A.
+(* just a simple to use pp as a nat_trans *)
+Local Definition Nat_trans_morp {C : category} (Γ : C) (p : mor_total(preShv C))
+:= pr12 p Γ.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:48]: What is the type of this definition?

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 4]
```diff
@@ -0,0 +1,653 @@
...
+Local Definition C : category := pr1(CwF).
+Local Definition pp : mor_total(preShv(C)) := pr12 CwF.
+Local Definition Ty : functor _ _ := target pp.
+Local Definition Tm : functor _ _ := source pp.
+(* extension of context *)
+Local Definition ext (Γ : C) (A : Ty Γ : hSet) : C := pr11 pr22 CwF Γ A.
+Local Notation "Γ .: A" :=  (ext Γ A) (at level 24).
+
+Local Definition pi {Γ : C} (A : Ty Γ : hSet) : C⟦Γ.:A,Γ⟧ := pr21 pr22 CwF _ A.
+Definition CwF_Pullback {Γ} (A : Ty Γ : hSet) := pr22 pr22 CwF Γ A.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:45]: Please add a type annotation.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 5]
```diff
@@ -0,0 +1,653 @@
...
+(** * Preliminaries *)
+(** General context for a category with famillies and some usefull notations *)  
+Context {CwF : cwf}.
+Local Definition C : category := pr1(CwF).
+Local Definition pp : mor_total(preShv(C)) := pr12 CwF.
+Local Definition Ty : functor _ _ := target pp.
+Local Definition Tm : functor _ _ := source pp.
+(* extension of context *)
+Local Definition ext (Γ : C) (A : Ty Γ : hSet) : C := pr11 pr22 CwF Γ A.
+Local Notation "Γ .: A" :=  (ext Γ A) (at level 24).
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:42]: Please add a type annotation.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 6]
```diff
@@ -0,0 +1,653 @@
...
+: #Tm (f;;g) A = #Tm f (#Tm g  A).
+Proof.
+  exact (!((toforallpaths _ _ _ (!(pr22 Tm _ _ _  g f))) A)).
+Qed.
+
+(** * Tm as a Display **)
+Section tm.
+Definition tm {Γ : C} (A : Ty Γ : hSet) : UU
+:= ∑ (a : Tm Γ : hSet), pp_ _ a = A.
+Definition pr1_tm {Γ : C} {A : Ty Γ : hSet} (a : tm A) := pr1 a.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:68]: Please add a type annotation.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 7]
```diff
@@ -0,0 +1,653 @@
...
+Coercion pr1_tm : tm >-> pr1hSet.
+
+Lemma ppComp1 {Γ Δ : C} {A : Ty Γ : hSet} (f : C^op ⟦Γ,Δ⟧) (a : tm A) :
+  pp_ _ (# Tm f a ) = # Ty f A. 
+Proof.
+  apply pathsinv0, (pathscomp0(!(maponpaths (# Ty f) (pr2 a)))),
+  pathsinv0, (toforallpaths _ _ _ (pr22 pp _ _ f) a) .
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:75]: Could you rework this proof to use several separate `apply` statements?

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 8]
```diff
@@ -0,0 +1,653 @@
...
+  -  induction e. intro x. exact (idweq _).
+Defined.
+
+Definition tm_transportb {Γ} {A A' : Ty Γ : hSet} (e : A = A')
+: tm A' ≃ tm A.
+Proof.
+  use weqbandf.
+  -  exact (idweq (Tm Γ : hSet)).
+  -  induction e. intro x. exact (idweq _).
+Defined.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:101]: How about defining this one as `invweq` of the one before? Would that compute less well?

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 9]
```diff
@@ -0,0 +1,653 @@
...
+{Γ Γ' : C} {f f' : C⟦Γ',Γ⟧} (e : f = f') {A : Ty Γ : hSet} (a : tm A)
+: reind_tm f a = tm_transportb (maponpaths (fun g => #Ty g A) e) (reind_tm f' a).
+Proof.
+  induction e.
+  rewrite maponpaths_eq_idpath; [|apply idpath].
+  now rewrite tm_transportb_idpath.
+Qed.
+
+Lemma tm_transportf_compose {Γ : C} {A A' A'' : Ty Γ : hSet} (e : A = A')
+(e' : A' = A'') (a : tm A) : tm_transportf (e @ e') a = tm_transportf e' (tm_transportf e a).
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:134]: It is useful if the type annotation starts at the beginning of a line, like in the other definitions you give.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 10]
```diff
@@ -0,0 +1,653 @@
...
+End Yoneda.
+
+Section qq.
+(** morphism between contexts *)
+
+Let Xk {Γ : C} (A : Ty Γ : hSet) :=
+  make_Pullback _ _ _ _ _ _ (pr22 pr22 CwF Γ A).
+
+Definition qq_yoneda {Γ  Δ : C} (A : Ty Γ : hSet) (f : C^op ⟦Γ,Δ⟧)
+: _ ⟦Yo (_ .: (#Ty f A)), Yo (Γ.: A) ⟧.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:220]: Please fill in the details, instead of using underscore. You can copy them from Coq, of course.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 11]
```diff
@@ -0,0 +1,653 @@
...
+
+Lemma qq_yoneda_commutes {Γ Δ : C} (A : Ty Γ : hSet) (f : C^op ⟦Γ,Δ⟧)
+: (qq_yoneda A f) ;; yy (te A) = yy (te _).
+Proof.
+  apply (PullbackArrow_PullbackPr2 (Xk A)).
+Qed.
+
+
+Definition qq_term {Γ  Δ : C} (A : Ty Γ : hSet) (f : C^op ⟦Γ,Δ⟧)
+: _ ⟦ _ .: (#Ty f A) , Γ.: A⟧.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:249]: Please fill in the details, instead of using underscore. You can copy them from Coq, of course.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 12]
```diff
@@ -0,0 +1,653 @@
...
+    (Yo (Γ.:A)) (identity _) (yy (te A))
+    (Subproof_γ (te A) ))); auto) .
+  rewrite (qq_yoneda_compatibility A (pi A)), <- assoc, <- X.
+  refine (cancel_precomposition _ _ _ _ _ _ _ _).
+  rewrite X.
+  apply (qq_yoneda_commutes A (pi A)).
+Qed.
+
+Lemma  γPullback2 {Γ : C} (A : Ty Γ : hSet)
+:γ (te A) ;; #Yo (qq_term A (pi A)) ;; #Yo (pi A) = identity _;;(#Yo (pi A)).
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:360]: space after colon

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 13]
```diff
@@ -0,0 +1,653 @@
...
+        (Subproof_γ (te A))))));
+  auto).
+  apply (pathscomp0 (cancel_precomposition _ _ _ _ _ _ (γ (te A)) (!Eq1))).
+  rewrite assoc.
+  apply (pathscomp0 (cancel_postcomposition _ _ _ (Eq2))).
+  reflexivity.
+Qed.
+
+Definition DepTypesType {Γ : C} {A : Ty Γ : hSet} (B : Ty(Γ.:A) : hSet)
+(a : tm A) : (Ty Γ : hSet) := ( γ a;;yy B : nat_trans _ _) Γ (identity Γ).
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:387]: Please add type annotation.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 14]
```diff
@@ -0,0 +1,653 @@
...
+
+Definition DepTypesElem_pr1 {Γ : C} {A : Ty Γ : hSet} {B : Ty(Γ.:A) : hSet}
+(b : tm B) (a : tm A) : (Tm Γ : hSet) 
+:= (γ a;;yy b : nat_trans _ _) Γ (identity Γ).
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:391]: Please add type annotation.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 15]
```diff
@@ -0,0 +1,653 @@
...
+
+Lemma DepTypesComp {Γ : C} { A : Ty Γ : hSet} {B : Ty(Γ.:A) : hSet}
+(b : tm B) (a : tm A) : pp_  Γ (DepTypesElem_pr1 b a) = DepTypesType B a.
+Proof.
+  apply pathsinv0,(pathscomp0(maponpaths _ (!(pr2 b)))),pathsinv0,
+  (toforallpaths _ _ _ (pr22 pp (Γ.:A) Γ ((γ a : nat_trans _ _ ) Γ (identity Γ))) b).
+Qed.
+
+Definition DepTypesElems {Γ : C} { A : Ty Γ : hSet} {B : Ty(Γ.:A) : hSet}
+(b : tm B) (a : tm A) : tm (DepTypesType B a) := DepTypesElem_pr1 b a ,, DepTypesComp b a.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:401]: Start type annotation in new line.

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 16]
```diff
@@ -0,0 +1,653 @@
...
+        (cwf_square_comm (te' A))
+        (CwF_Pullback A)))
+        (γ (te A) ;; #Yo (qq_term A (pi A))) (identity _) (γPullback2 A) (γPullback1 A)).
+     *  rewrite Id, (id_left (preShv C)) in Natu.
+        unfold DepTypesType.
+        rewrite Natu; exact (!(yyidentity B)).
+Qed.
+
+Lemma DepTypesrewrite {Γ : C} {A : Ty Γ : hSet} (B : Ty (Γ.:A) : hSet)
+(a b : tm A) (e : pr1 a = pr1 b) : DepTypesType B a = DepTypesType B b.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:442]: type annotation in new line

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 17]
```diff
@@ -0,0 +1,653 @@
...
+Definition CwF_PiAppAbs (π : CwF_PiTypeFormer) (Λ : CwF_PiAbs π) (app : CwF_PiApp π)
+:= ∏ Γ ( A : Ty Γ : hSet) (B : Ty(Γ.: A) : hSet) (b : tm B) (a : tm A),
+app _ _ _ (Λ _ A _ b) a = DepTypesElems b a.
+
+Definition CwF_Pi_comp_struct (π : CwF_pi_form_struct)
+(lam : CwF_Pi_intro_struct π) (app : CwF_Pi_app_struct π) : UU
+:= CwF_PiAppAbs π (pr1 lam) (pr1 app).
+
+Definition CwF_PiAbsAppComp (π : CwF_PiTypeFormer) (nπ : CwF_PiTypeNat π)
+(Λ : CwF_PiAbs π) (app : CwF_PiApp π) : UU.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:517]: It is not great to define a type interactively. Can you copy the created type into the definition?

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v [hunk 18]
```diff
@@ -0,0 +1,653 @@
...
+Definition CwF_SigTypeNat (σ : CwF_SigTypeFormer) : UU 
+:= ∏ (Γ Δ : C) (f : C^op ⟦Γ,Δ⟧) (A : Ty Γ : hSet) (B : Ty(Γ.:A) : hSet),
+#Ty f (σ _ A B) = σ _ (#Ty f A) (#Ty (qq_term A f) B).
+
+Definition CwF_SigAbs (σ : CwF_SigTypeFormer) : UU 
+:= ∏ (Γ : C) (A : Ty Γ : hSet) (B : Ty(Γ.:A) : hSet) (a : tm A)
+(b : tm (DepTypesType B a) ), tm (σ _ A B).
+
+Definition CwF_SigAbsNat (σ : CwF_SigTypeFormer) (nσ : CwF_SigTypeNat σ)
+(pair : CwF_SigAbs σ) : UU.
```
Comment (benediktahrens) [inline TypeTheory/TypeConstructions/CwF_Structure_Display.v:544]: Don't define types interactively, at least not in the final version - instead copy the type expression once you have created it using tactics.

**Review by benediktahrens — CHANGES_REQUESTED** [review]

File: TypeTheory/TypeConstructions/CwF_Structure_Display.v (hunk 5 above)
Comment (tvignon) [reply TypeTheory/TypeConstructions/CwF_Structure_Display.v:42]: I'm sorry, I don't see where I forgot a type annotation in those line.

Comment (benediktahrens) [reply TypeTheory/TypeConstructions/CwF_Structure_Display.v:42]: Oups, I think I marked the wrong line. Sorry for that. Please ignore my comment.

**Comment by benediktahrens** [comment]
@tvignon : please add your identity types, and then we can merge this PR.
